US08168668B2
8) 1-[6-(2-fluoroethoxy)pyridin-3-yl]ethanamine
The title compound was synthesised according to the 2-step procedure described for the synthesis of 1-[6-(2,2,2-trifluoroethoxy)pyridin-3-yl]ethanamine starting from 6-chloronicotinonitrile and 2-fluoroethanol.

reactant | 1-[6-(2,2,2-trifluoroethoxy)pyridin-3-yl]ethanamine | FC(COC1=CC=C(C=N1)C(C)N)(F)F | C9H11F3N2O
reactant | 6-chloronicotinonitrile | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | 2-fluoroethanol | FCCO | C2H5FO
product | 1-[6-(2-fluoroethoxy)pyridin-3-yl]ethanamine | FCCOC1=CC=C(C=N1)C(C)N | C9H13FN2O
